US06057453
N, N, N', N'-tetra[2'-(2-methyl-5-nitro-1-imidazolyl) ethyl]-1,8-octanediamine free base (1 g) is dissolved in 50 ml of warm methanol. To this solution, 5 ml of about 4 N ethanolic hydrochloric acid is added. Ether (20 ml) is then added slowly. The mixture solution is cooled and kept at 4° C. to facilitate precipitation. The precipitate is then collected by suction filtration, and recrystallized with methanol/ether to yield N, N, N', N'-tetra[2'-(2-methyl-5-nitro-1-imidazolyl) ethyl]-1,8-octanediamine-2HCl.

reactant | N, N, N', N'-tetra[2'-(2-methyl-5-nitro-1-imidazolyl) ethyl]-1,8-octanediamine | 1 g | CC=1N(C(=CN1)[N+](=O)[O-])CCN(CCCCCCCCN(CCN1C(=NC=C1[N+](=O)[O-])C)CCN1C(=NC=C1[N+](=O)[O-])C)CCN1C(=NC=C1[N+](=O)[O-])C | C32H48N14O8
reactant | hydrochloric acid | about 4 N, 5 ml | Cl | ClH
reactant | Ether | 20 ml | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | N, N, N', N'-tetra[2'-(2-methyl-5-nitro-1-imidazolyl) ethyl]-1,8-octanediamine-2HCl | Cl.Cl.CC=1N(C(=CN1)[N+](=O)[O-])CCN(CCCCCCCCN(CCN1C(=NC=C1[N+](=O)[O-])C)CCN1C(=NC=C1[N+](=O)[O-])C)CCN1C(=NC=C1[N+](=O)[O-])C | InChI=1S/C32H48N14O8.2ClH/c1-25-33-21-29(43(47)48)39(25)17-13-37(14-18-40-26(2)34-22-30(40)44(49)50)11-9-7-5-6-8-10-12-38(15-19-41-27(3)35-23-31(41)45(51)52)16-20-42-28(4)36-24-32(42)46(53)54;;/h21-24H,5-20H2,1-4H3;2*1H
